US05476873
A solution of 4-allyloxybromobenzene (42.24 g, 198.3 mmol), 4-fluorophenol (14.82 g, 132.2 mmol), potassium carbonate (27.41 g, 198.3 mmol) and copper (4.20 g, 66.1 mmol) in pyridine (200 mls) was refluxed for 2 days. It was then filtered through Celite and diluted with ethylacetate(500 mls). The organic was then washed with water (3×200 mls), dried with MgSO4 and concentrated. The resulting residue was chromatographed (silica gel, hexanes:ether, 99.75:0.25) to afford 15.85 g (49%) of 4-(4-fluorophenoxy)allyloxybenzene as a lemon yellow oil.

reactant | 4-allyloxybromobenzene | 198.3 mmol, 42.24 g | C(C=C)OC1=CC=C(C=C1)Br | C9H9BrO
reactant | 4-fluorophenol | 132.2 mmol, 14.82 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 198.3 mmol, 27.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 200 mls | N1=CC=CC=C1 | C5H5N
catalyst | copper | 66.1 mmol, 4.20 g | [Cu] | Cu
product | 4-(4-fluorophenoxy)allyloxybenzene | 15.85 g, 49% | FC1=CC=C(OC=CCOC2=CC=CC=C2)C=C1 | C15H13FO2
